US08022218B2
(a). 3-Bromo-5-ethoxy-4-(3-nitro-benzyloxy)-benzaldehyde
A mixture of 3-nitrobenzylbromide (2 g), 3-bromo-5-ethoxy-4-hydroxy benzaldehyde (2.06 g), K2CO3 (2.55 g) and Bu4NI (186 mg) in DMF (50 ml) was stirred at 60° C. for 2 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was recrystallized from heptane.

reactant | 3-nitrobenzylbromide | 2 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | 3-bromo-5-ethoxy-4-hydroxy benzaldehyde | 2.06 g | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | K2CO3 | 2.55 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Bu4NI | 186 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-ethoxy-4-(3-nitro-benzyloxy)-benzaldehyde | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)[N+](=O)[O-])OCC | C16H14BrNO5
